US07495006B2
(3-(Benzyloxymethyl)cyclobut-1-enyloxy)-trimethyl-silane
In a 1 L flask charged with argon, dry THF 300 ml was added. This was cooled to −5° C., then n-BuLi (83 ml, 1.6M in hexane, 0.132 mol) was added. After mixing 5 min, diisopropylamine (18 ml, 0.132 mol) was added drop by drop. After stirring for 10 min, this solution was cooled to −78° C. Then a THF solution of 3-(benzyloxymethyl)-cyclobutanone (20 g, 0.11 mol) was added drop by drop at −78° C. After addition, replace the dry ice-acetone bath with ice-water bath. After stirring at 0° C. for 30 min, TMSCl (16 ml, 0.132 mol) was added dropwise, this was stirred at 0° C. for 1 hr and room temperature for 10 min. Then the solvents were removed and the residue was washed with dry pentane and filtered. The filtrate was concentrated to give crude product without further purification. 1H NMR (CDCl3, 600 MHz): δ 0.23 (s, 9H), 2.20 (dd, J=12.6, 1.2, 1H), 2.65 (m, 1H), 2.74 (dd, J=13.2, 4.2, 1H), 3.41 (m, 1H), 3.48 (m, 1H), 4.54 (s, 2H), 4.67 (s, 1H), 7.26-7.35 (m, 5H). 13C NMR (CDCl3, 150 MHz): δ 0.09, 32.70, 38.18, 73.26, 75.41, 93.69, 104.27, 127.70, 127.86, 128.55, 138.20.

reactant | n-BuLi | 0.132 mol, 1.6M, 83 ml | [Li]CCCC
reactant | diisopropylamine | 0.132 mol, 18 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-(benzyloxymethyl)-cyclobutanone | 0.11 mol, 20 g | C(C1=CC=CC=C1)OCC1CC(C1)=O | C12H14O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | TMSCl | 0.132 mol, 16 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (3-(Benzyloxymethyl)cyclobut-1-enyloxy)-trimethyl-silane | C(C1=CC=CC=C1)OCC1C=C(C1)O[Si](C)(C)C | C15H22O2Si
